Name:  ___                   Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Cefepime / Aztreonam
 
Attending: ___
 
Chief Complaint:
diarrhea 
 
Major Surgical or Invasive Procedure:
Colonoscopy on ___
 
History of Present Illness:
Ms. ___ is a ___ year old woman with CML, s/p allogeneic 
stem cell transplant with Busulfan/Cytoxan. Her sister was her 
donor. her transplant was complicated by mucositis with biopsy 
of the esophagus suggesting upper GI GVHD which was treated with 
steroids. She is day +___.  
.  
She arrived at outpatient ___ clinic today feeling unwell. She 
reports  
vomiting yesterday morning after taking her medications, but 
otherwise having a good and active day. She had 3 soft but 
formed bowel movements that day, when her usual pattern is to 
have 2. She denies blood or grease in her BM. She awoke in the 
middle of the night with increasing "gassy" stomach cramping, 
which was worse again when she got up for the day. She was able 
to brush her teeth, take her pills and eat, and denies any 
vomiting today, but her stomach continued to be painful. She 
also notes feeling more nauseated after brushing her teeth. She 
reports her diet to be decreased PO intake, since ___. She 
Usually has some granola bars or cereals, but has a hard time 
eating meats, fish, chicken, milk/dairy, and does not drink 
ensure supplements. Her niece ___ whom is close to the pt. 
has been trying to encourage better intake.  
Walking over to the clinic she became diaphoretic, short of 
breath, tachycardic, and felt very weak. She improved quickly 
when sitting down and after receiving fluids, but her stomach 
cramps continued. It was decided to admit her for better 
management of suspected GVH of the gut. She denies sick contacts 
or recent travel. Also denies large volume diarrhea, 
constipation, fever, chills, night sweats, cough, chest pain, 
dizziness, swelling, dysuria, neuropathy, bleeding, bruising, 
confusion, depression. The remainder of review of systems is 
essentially negative.  

 
Past Medical History:
ONCOLOGIC HISTORY:
- ___: Asymptomatic abnormal CBC noted by PCP during routine
visit
- ___: Bone marrow biopsy showed myeloproliferative
disorder, likely chronic myelogenous leukemia. Per patient
report, began taking interferon three times weekly shortly
after diagnosis.
- ___: Started Gleevec 400 mg daily. At some point
thereafter, her dose was increased to 600 mg daily
- ___: Gleevec increased to 400 mg twice daily with
hydroxyurea and allopurinol
- ___: Seen at ___, found to be
in late chronic phase CML. Stem cell transplant was
recommended, but she did not wish to pursue this course.
- ___: Gleevec held due to worsening anemia and
thrombocytosis. Started on Nilotinib
- ___: Nilotinib held due to QTC prolongation, started on
Dasatinib
- ___: First seen at ___. Bone marrow biopsy showed
accelerated phase CML. began induction chemo with 7+3.
- ___: Admission for MRD SCT

Other Past Medical History:
- atherosclerotic coronary vascular disease
- status post CABG in ___
- hypertension
- hyperlipidemia
- Right ankle surgery in ___
- Total abdominal hysterectomy in ___
- Appendectomy at age ___
- GERD 
 
Social History:
___
Family History:
Sister is donor, brother with prostate cancer 
 
Physical Exam:
Vitals: 96.9, 126/82, 92, 18, 100% RA  
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, MMM, oropharynx clear  
Neck: supple, JVP not elevated. Mild b/l cervical adenopathy  
Lungs: Clear to auscultation bilaterally, no wheezes, rales, 
ronchi  
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, non-distended, bowel sounds present, epigastric 
tenderness to palpation, no rebound tenderness or guarding, no 
organomegaly  
GU: no foley  
Skin: mild erythematous rash on upper chest/ erythema under 
breasts b/l. Tatoo RLQ/ Linear scar left forearm.  
Ext: warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema  
Neuro: CNs ___ intact, no focal weakness or loss of sensation  
.  

 
Pertinent Results:
___ 10:00AM BLOOD WBC-12.7*# RBC-3.64* Hgb-11.8* Hct-34.2* 
MCV-94 MCH-32.4* MCHC-34.5 RDW-20.7* Plt ___
___ 10:00AM BLOOD Neuts-74* Bands-1 Lymphs-7* Monos-14* 
Eos-1 Baso-0 Atyps-1* Metas-1* Myelos-1*
___ 10:00AM BLOOD Hypochr-NORMAL Anisocy-3+ Poiklo-2+ 
Macrocy-2+ Microcy-2+ Polychr-2+ Ovalocy-2+ Tear Dr-OCCASIONAL
___ 10:00AM BLOOD UreaN-22* Creat-1.1 Na-139 K-2.8* Cl-101 
HCO3-22 AnGap-19
___ 10:00AM BLOOD ALT-31 AST-26 LD(LDH)-344* AlkPhos-60 
TotBili-0.5
___ 10:00AM BLOOD Albumin-4.1 Calcium-9.4 Phos-4.2 Mg-1.4*
___ 12:00AM BLOOD Triglyc-576* HDL-33 CHOL/HD-7.8 
LDLmeas-145*
 
Brief Hospital Course:
#N/V/D: the pt p/w reported having several loose stools and 
sporadic vomiting throughout the past week prior to 
presentation. She also reported decreased po intake since 
___ with accompanying nausea/vomiting. Additionally, pt had 
hx suggestive of upper GI GVHD. She was started empirically on 
methylprednisolone 30 mg IV BID, in addition to her Budensonide 
3 mg PO TID, and cyclosporine 125 mg IV q12 for possible GVH 
colitis. Zofran and omeprazole were ordered for her 
nausea/vomiting.  Stools were sent for o&p, bact cultures, viral 
cultures, and clostridium difficile toxin.  Due to her 
continuing diarrhea, CT abdomen done on HD3 which showed 
uncomplicated ileocolitis with continuous involvement of distal 
ileum up to proximal transverse colon just beyond the hepatic 
flexure, suggestive of graft versus host disease or 
infectious/inflammatory etiologies.  The pt. was placed NPO on 
HD3 for colonoscopy, but given her poor PO intake while in the 
hospital, was evaluated and started on TPN by HD4.   While on 
the high dose steroids, the pt's diarrhea did not improve much, 
and she wast started on empiric abx therapy with metronidazole  
500 mg IV qday and levofloxacin 750 mg IV qday (as she was 
allergic to cefepime/possibly penicillins) on HD4.  Stool 
studies all came back negative for infectious etiologies of her 
diarrhea.  Bx results from her colonoscopy were negative for CMV 
but positive for severe graft versus host colitis throughout the 
colon.  Her antibiotics were discontinued, and she was started 
on mycophenolate mofetil 1000 mg po BID and her cyclosporine was 
increased from 175 mg po BID to ___ qAM/qHS.  Her 
diarrhea began to improve, TPN was dc'd on HD 9, and she was 
discharged home on HD12 on CSA, MMF, and IV methylprednisolone 
for control of her GVH colitis.  
.  
#Hx of CML s/p alloSCT: she was continued on immunosuppressive 
therapy per above.  Additionally, she was continued on ppx 
therapy with changes in her home fluconazole to PO voriconazole 
___ concern of hepatic interaction, continuation of her 
Acyclovir 400 mg q12hr, Sulfameth/Trimethoprim DS 1 TAB PO MWF, 
and ursodiol 300 mg BID.  No further issues were encountered 
during her hospital stay.  She was discharghed home on 
acyclovir, and voriconazole.  SMX/TMP was held due to 
administration of pentamidine while in house.  Will f/u with her 
hematologist/oncologist as an outpatient for adjustment of her 
medications.
.  
#Hx of HTN: pt. had a hx of intractable htn while on 
cyclophosphamide.  Blood pressures were elevated in the 130-160 
SBP range while in house.  She was continued on her home 
nefidipine CR 90mg qday, and metoprolol tartrate 50 mg PO BID 
and discharged home on these medications. 
.
# Hx of hypomagnesemia:  secondary to CSA use.  Put on sliding 
scale magnesium repletion while in house.   Discharged on 
Magnesium oxide-Magnesium AA chelate 133 mg po TID. 
 
Medications on Admission:
Acyclovir 400 mg Tablet PO q8 hours  
Budesonide 3 mg Capsule PO TID  
Cyclosporine Modified [Neoral] 25 mg Capsule  
1 Capsule(s) by mouth twice a day dose is 175mg bid  
Fluconazole 200 mg Tablet PO BID  
Folic Acid 1 mg Tablet PO daily  
Lorazepam 0.5 mg Tablet ___ tabs PO daily  
Metoprolol Tartrate 100mg PO BID  
Nifedipine Extended Release 90mg PO daily  
Omeprazole 40 mg Capsule PO daily  
Ondansetron [ZOFRAN ODT] 8 mg Tablet PO q8H PRN nausea  
Prednisone 40 mg Tablet  
Sulfamethoxazole-Trimethoprim [Bactrim DS] 800 mg-160 mg Tablet 
3X/WEEK on ___  
Ursodiol 300 mg Capsule PO BID  
Docusate Sodium [Colace] 100 mg PO BID  
Magnesium Oxide-Mg AA Chelate [Mg-Plus-Protein] 133 mg Tablet PO 
TID  
Multivitamin 1 tab daily  
Senna 8.6 mg Tablet PO BID  

 
Discharge Medications:
1. Budesonide 3 mg Capsule, Sust. Release 24 hr Sig: One (1) 
Capsule, Sust. Release 24 hr PO TID (3 times a day).
Disp:*90 Capsule, Sust. Release 24 hr(s)* Refills:*2*
2. Metoprolol Tartrate 50 mg Tablet Sig: One (1) Tablet PO BID 
(2 times a day).
Disp:*60 Tablet(s)* Refills:*2*
3. Methylprednisolone Sodium Succ 500 mg Recon Soln Sig: 40  mg  
Intravenous qAM.
Disp:*qs qs* Refills:*1*
4. Methylprednisolone Sodium Succ 500 mg Recon Soln Sig: Twenty 
(20) mg Intravenous qHS.
Disp:*qs qs* Refills:*2*
5. Nifedipine 90 mg Tablet Sustained Release Sig: One (1) Tablet 
Sustained Release PO DAILY (Daily): Hold for BP <100.  
6. Omeprazole 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. Ursodiol 300 mg Capsule Sig: One (1) Capsule PO BID (2 times 
a day).  
8. Voriconazole 200 mg Tablet Sig: One (1) Tablet PO Q12H (every 
12 hours).
Disp:*60 Tablet(s)* Refills:*2*
9. Simethicone 80 mg Tablet, Chewable Sig: ___ Tablet, Chewables 
PO QID (4 times a day) as needed for gas.  
10. Mycophenolate Mofetil 500 mg Tablet Sig: Two (2) Tablet PO 
BID (2 times a day).
Disp:*120 Tablet(s)* Refills:*2*
11. Cyclosporine Modified 25 mg Capsule Sig: Three (3) Capsule 
PO Q12H (every 12 hours): Take with one 100 mg tablet to make 
dose 175mg every 12 hours.
Disp:*180 Capsules* Refills:*2*
12. Cyclosporine Modified 100 mg Capsule Sig: One (1) Capsule PO 
twice a day: Take with three 25mg tablets to make dose 175mg 
every 12 hours.
Disp:*60 Capsule(s)* Refills:*2*
13. Acyclovir 400 mg Tablet Sig: One (1) Tablet PO three times a 
day.  
14. Heparin Flush (10 units/ml) 2 mL IV PRN line flush 
Tunneled Access Line (e.g. ___), heparin dependent: Flush 
with 10 mL Normal saline followed by Heparin as above daily and 
PRN per lumen. 
15. Magnesium Oxide-Mg AA Chelate 133 mg Tablet Sig: One (1) 
Tablet PO three times a day. Tablet(s) 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary:
Chronic Lymphocytic Leukemia status post allogenic stem cell 
transplant
Graft Versus Host Colitis
.
Secondary:
Hypertension
Hyperlipidemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent

 
Discharge Instructions:
You were admitted to the hospital due to nausea, vomiting, and 
diarrhea for several days duration.  You had a CT scan of you 
abdomen which showed inflammation.  You were given medications 
for a possible infection in your colon for several days, as well 
as medications for possible Graft Versus Host Disease of the 
colon.  You were evaluated by colon specialists 
(gastroenterologists) who performed a procedure to look at the 
inside of you colon and take biopsies (colonoscopy).  It was 
determined that your diarrhea was NOT from an infection, but due 
to Graft-Versus-Host-Disease (a complication that can happen in 
people with allogenic stem cell transplants).  You were placed 
on large doses of immunosuppressants (Methylprednisolone, 
Cyclosporin, Mycophenolate Mofetil, and Budenoside) to stop your 
immune system from attacking your colon.  Your diarrhea began to 
improve, you were placed on a full low bacteria diet, and 
discharged from the hospital.
.
Some of your medications have been changed:
Prednisone 20 mg <------- STOP TAKING THIS MEDICATION
Fluconazole 200 mg <----- STOP TAKING THIS MEDICATION
Bactrim DS 1 Tab <------- STOP TAKING THIS MEDICATION FOR NOW
Metoprolol Tartrate 100 mg 2x a day <----*** If this medication 
can be cut in half, take ___ a pill 2x a day.  If it cannot, DO 
NOT TAKE THIS MEDICATION****** 
.
You have been started on some new medications:
Methylprednisolone (a steroid): 40 mg IV every morning/ 20 mg 
every night
Mycophenolate Moefteil (an immune suppresant) 100 mg PO 2x a day 

Voriconazole 200 mg every 12 hours
Metoprolol Tartrate 50 mg 2x a day ****** IGNORE IF YOU ARE 
TAKING ABOVE METOPROLOL ___ tablets) *****
.
It has been a pleasure taking care of you ___!

 
Followup Instructions:
___